US05420126
In 40 ml of N,N-dimethylformamide was dissolved 3.33 g of 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine followed by addition of 0.77 g of sodium hydride. The mixture was stirred at room temperature for 30 minutes and ice-cooled. Then, 6 ml of a solution of 2.76 g of methyl 2-chloropyrazine-3-carboxylate in N,N-dimethylformamide was added dropwise at a temperature not exceeding 5° C. The reaction mixture was then stirred at room temperature for 3.5 hours, at the end of which time it was poured in ice-water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography. The resulting crude crystals were recrystallized from ethanol to give 1.27 g of 3,4-dihydro-2,2-dimethyl-4-(2-methoxy-3-pyrazinyl)carbonyl-6-nitro-2H-1,4-benzoxazine. This compound was found to have the following physicochemical properties.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 3.33 g | CC1(OC2=C(NC1)C=C(C=C2)[N+](=O)[O-])C | C10H12N2O3
reactant | sodium hydride | 0.77 g | [H-].[Na+]
reactant | methyl 2-chloropyrazine-3-carboxylate | 2.76 g | ClC1=NC=CN=C1C(=O)OC | C6H5ClN2O2
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2,2-dimethyl-4-(2-methoxy-3-pyrazinyl)carbonyl-6-nitro-2H-1,4-benzoxazine | 1.27 g | CC1(OC2=C(N(C1)C(=O)C=1C(=NC=CN1)OC)C=C(C=C2)[N+](=O)[O-])C | C16H16N4O5
